US04818765
As Example 15 but using 2-dimethylamino-1-phenyl-ethanol (13.7 g) instead of 3-acetylpyridine. The crude material is pyrified by column chromatography on aluminium oxide using dichloromethane as eluant. The product is dried in vacuo to constant weight to give 1-(1,3-dithian-2-ylidene)-2-ylidene)-2-dimethylamino-1-phenylethane as an oil at room temperature.

reactant | 2-dimethylamino-1-phenyl-ethanol | 13.7 g | CN(CC(O)C1=CC=CC=C1)C | C10H15NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-dimethylamino-1-phenylethane | CN(CCC1=CC=CC=C1)C | C10H15N
